US09381191B2
0.061 g (0.182 mmol) of ethyl 2-((3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetate were solubilised with magnetic stirring in 3 ml of a mixture consisting of methanol and tetrahydrofurane (1/1, v/v) and then 0.173 ml (0.173 mmol) of a 1N NaOH aqueous solution were added. The mixture was stirred at r.t. for 2 d before being concentrated in vacuo. The crude residue was triturated in 3 ml of diisopropyl ether, the obtained solid was isolated by filtration and dried under a vacuum bell jar in order to obtain 0.027 g (yield=45%) of sodium 2-((3-(phenyl ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetate. LC-MS: m/z=307 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.62 (d, J=6.7 Hz, 1H), 7.79-7.58 (m, 3H), 7.45 (dd, J=8.8, 7.2 Hz, 4H), 7.13 (t, J=6.5 Hz, 1H), 4.74 (s, 2H), 3.70 (s, 2H)

reactant | ethyl 2-((3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetate | 0.182 mmol, 0.061 g | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)COCC(=O)OCC | C20H18N2O3
reactant | methanol | CO | CH4O
reactant | NaOH | 1N | [OH-].[Na+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | sodium 2-((3-(phenyl ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetate | 0.027 g, yield=45% | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)COCC(=O)[O-].[Na+] | InChI=1S/C18H14N2O3.Na/c21-18(22)13-23-12-15-16(10-9-14-6-2-1-3-7-14)20-11-5-4-8-17(20)19-15;/h1-8,11H,12-13H2,(H,21,22);/q;+1/p-1
